US04024145
A solution of 1.4 g. of 4-amino-3,5-dimethoxybenzaldehyde in 20 ml. of 50% hydrogen tetrafluoroborate was diazotized at 0° C. with a solution of 0.59 g. of sodium nitrite in about 2 ml. of water. After irradiation with a low pressure mercury lamp (Hanau NK 6620) for 6 hours at room temperature, the solution was extracted with ether, the ether extracts dried over magnesium sulfate and concentrated. After recrystallization from heptane, the residue produced 3,5-dimethoxy-4-fluoro-benzaldehyde of melting point 97°-98° C.

reactant | 4-amino-3,5-dimethoxybenzaldehyde | NC1=C(C=C(C=O)C=C1OC)OC | C9H11NO3
reactant | hydrogen tetrafluoroborate | [H+].[B-](F)(F)(F)F
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 3,5-dimethoxy-4-fluoro-benzaldehyde | COC=1C=C(C=O)C=C(C1F)OC | C9H9FO3
